US07199147B2
Thionyl chloride (10.5 ml) was added to 1-benzyl-4-piperidinecarboxylic acid (4.85 g, 22.1 mmol), and the resulting mixture was refluxed for 2 hours. The reaction solution was distilled under reduced pressure to remove the solvent. To a solution of the resulting residue in methylene chloride (65 ml) were added 5-aminoindazole (4.41 g, 33.2 mmol), triethylamine (1.8 ml), pyridine (30 ml) and a catalytic amount of 4-dimethylaminopyridine at 0° C., and then stirred at room temperature for 3 hours. Then, the reaction solution was poured into a 1N-aqueous sodium hydroxide solution and extracted with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol=20/1) to obtain 1-benzyl-N-(1H-indazol-5-yl)-4-piperidinecarboxamide (2.2 g, 30%).

reactant | Thionyl chloride | 10.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-benzyl-4-piperidinecarboxylic acid | 22.1 mmol, 4.85 g | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)O | C13H17NO2
reactant | 5-aminoindazole | 33.2 mmol, 4.41 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
product | 1-benzyl-N-(1H-indazol-5-yl)-4-piperidinecarboxamide | 2.2 g, 30% | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)NC=1C=C2C=NNC2=CC1 | C20H22N4O
